* Z:\home\chesito\github\Out2\diferencial_RE1K_valorescomerciales.asc
Q1 N003 N004 v- 0 2N3904
Q2 N004 N004 v- 0 2N3904
Q3 VE N003 N004 0 2N3904
R1 VC N003 5.6K
Q4 VC VB P001 0 2N3904
Q5 N001 N002 P002 0 2N3904
R2 VB 0 400k
R3 N002 0 400K
C1 VB vin 100µ
C2 -vin N002 100µ
R5 VC N001 1.1k
C3 vo N001 100µ
R6 vo 0 10k
V6 VC 0 12
V7 0 v- 12
R4 P001 VE 1K
R7 P002 VE 1K
V1 vin 0 SINE(0 1.2 20k)
V2 -vin 0 SINE(0 -1.2 20k)
.model NPN NPN
.model PNP PNP
.lib C:\users\chesito\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.3 0 0.01
.backanno
.end
