* Z:\home\chesito\github\Out2\diferencial_RE1K_valorescomerciales.asc
Q1 N002 N003 v- 0 2N3904
Q2 N003 N003 v- 0 2N3904
Q3 VE N002 N003 0 2N3904
R1 VC N002 5.6K
Q4 VC vin P001 0 2N3904
Q5 N001 -vin P002 0 2N3904
R2 vin 0 390k
R3 -vin 0 390K
R5 VC N001 1.1k
C3 vo N001 100µ
R6 vo 0 10k
V6 VC 0 12
V7 0 v- 12
R4 P001 VE 1K
R7 P002 VE 1K
V1 vin 0 SINE(0 1.2 20k) AC 1.2
V2 -vin 0 SINE(0 -1.2 20k) AC -1.2
.model NPN NPN
.model PNP PNP
.lib C:\users\chesito\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 10 1 100K
.backanno
.end
